US05521147
By the method of Example 1, Step E, 2.51 g (0.014 mole) of 2,3-dihydro-7-nitro-3-benzofuranone is reacted with 3.1 g (0.056 mole) of powdered iron in 45 mL of glacial acetic acid and 8 mL of water, yielding 7-amino-2,3-dihydro-3-benzofuranone.

reactant | 2,3-dihydro-7-nitro-3-benzofuranone | 0.014 mole, 2.51 g | [N+](=O)([O-])C1=CC=CC=2C(COC21)=O | C8H5NO4
solvent | acetic acid | 45 mL | C(C)(=O)O | C2H4O2
solvent | water | 8 mL | O | H2O
catalyst | iron | 0.056 mole, 3.1 g | [Fe] | Fe
product | 7-amino-2,3-dihydro-3-benzofuranone | NC1=CC=CC=2C(COC21)=O | C8H7NO2
